US06806265B2
d) Ethyl 3-(4-hydroxy-3-methylphenyl)-5-isoxazolecarboxylate
A solution of ethyl 3-[4-(methoxymethoxy)-3-methylphenyl]-5-isoxazolecarboxylate (725 mg, 2.49 mmol) and aqueous 4 N HCl solution (6 mL) in THF (10 mL) was stirred at 25° C. for 16 h. The reaction mixture was diluted with EtOAc and successively washed with water and brine, dried (MgSO4), filtered and concentrated under reduced pressure to give the title compound (434 mg, 70% yield) as a yellow solid.

reactant | ethyl 3-[4-(methoxymethoxy)-3-methylphenyl]-5-isoxazolecarboxylate | 2.49 mmol, 725 mg | COCOC1=C(C=C(C=C1)C1=NOC(=C1)C(=O)OCC)C | C15H17NO5
reactant | HCl | 4 N, 6 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 3-(4-hydroxy-3-methylphenyl)-5-isoxazolecarboxylate | 434 mg, 70% yield | OC1=C(C=C(C=C1)C1=NOC(=C1)C(=O)OCC)C | C13H13NO4
